US04371544
In 50 ml of anhydrous dioxane, 7.7 g (0.075 mole) of 1-ethyl-1-methyl-urea was dissolved, into this solution 8.9 g (0.075 mole) of phenylisocyanate was added dropwise under stirring condition. The reaction was continued at a room temperature for 15 hours, then the precipitate thus formed was obtained by filtration and recrystallized from ethanol to obtain 10.8 g (yield 65%) of 1-ethyl-1-methyl-5-phenylbiuret having a melting point of 157°-159° C.

reactant | 1-ethyl-1-methyl-urea | 0.075 mole, 7.7 g | C(C)N(C(=O)N)C | C4H10N2O
reactant | phenylisocyanate | 0.075 mole, 8.9 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-ethyl-1-methyl-5-phenylbiuret | 10.8 g, yield 65% | C(C)N(C(=O)NC(=O)NC1=CC=CC=C1)C | C11H15N3O2
